US07612114B2
(4-Nitrobenzyl)phenyl ether
A mixture of phenol (11.3 g), 4-nitrobenzyl bromide (25.9 g), potassium carbonate (16.6 g) and methyl ethyl ketone (100 ml) was stirred for 15.5 hours at 80° C. Ethyl acetate was added thereto, the insoluble material was removed by filtration, the solvent was evaporated in vacuo, and the resulting residue was recrystallized from hexane-ethyl acetate to provide the title compound (pale yellow powder) (24.9 g).

reactant | phenol | 11.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-nitrobenzyl bromide | 25.9 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Nitrobenzyl)phenyl ether | 24.9 g | [N+](=O)([O-])C1=CC=C(COC2=CC=CC=C2)C=C1 | C13H11NO3
